US08895769B2
4-(1-Methyl-1-silacyclopentan-1-yl)-3-cyanobutanoic acid (555 mg, 2.63 mmol) was subjected to catalytic reduction in the presence of Pd(OH)2 in the same manner as that of Example 20, the solvent was evaporated, and the residue was recrystallized to obtain 4-amino-3-[(1-methyl-1-silacyclopentan-1-yl)methyl]butanoic acid (274 mg, 48%) mentioned in the title as colorless powdery crystals.

reactant | 4-(1-Methyl-1-silacyclopentan-1-yl)-3-cyanobutanoic acid | 2.63 mmol, 555 mg | C[Si]1(CCCC1)CC(CC(=O)O)C#N | C10H17NO2Si
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 4-amino-3-[(1-methyl-1-silacyclopentan-1-yl)methyl]butanoic acid | 274 mg, 48% | NCC(CC(=O)O)C[Si]1(CCCC1)C | C10H21NO2Si
